US06924400B2
(b) 4-Propionyl-2-propylphenyl 1,1,1-trifluoromethanesulfonate
3.4 g (18 mmol) of 1-(4-hydroxy-3-propylphenyl)-1-propanone are placed in 100 ml of dichloromethane in a round-bottomed flask and under a stream of nitrogen. The reaction medium is cooled to 0° C. and 3.3 ml (23 mmol) of triethylamine are then added. 15 minutes later, 4.3 ml (26 mmol) of trifluoromethanesulfonic anhydride are added. 1 hour later, the mixture is poured into saturated aqueous ammonium chloride solution and extracted with dichloromethane. The organic phase is dried over magnesium sulfate, filtered and then evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (70/30). After evaporating off the solvents, 5.4 g (93%) of the expected product are obtained in the form of a brown oil.

reactant | 1-(4-hydroxy-3-propylphenyl)-1-propanone | 18 mmol, 3.4 g | OC1=C(C=C(C=C1)C(CC)=O)CCC | C12H16O2
reactant | triethylamine | 23 mmol, 3.3 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 26 mmol, 4.3 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-Propionyl-2-propylphenyl 1,1,1-trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(CC)=O)CCC)(F)F | C13H15F3O4S
